US08809548B2
A mixture J.6 (S)-tert-butyl 2-(2-(4-bromophenyl)-2-oxoethylcarbamoyl)-pyrrolidine-1-carboxylate (12.8 g, 31.12 mmol) and ammonium acetate (12.0 g, 155.7 mmol) in xylenes (155 mL) was heated in a sealed tube at 140° C. for 2 hours. The volatile component was removed in vacuo, and the residue was partitioned carefully between ethyl acetate and water, whereby enough saturated NaHCO3 solution was added so as to make the pH of the aqueous phase slightly basic after the shaking of the biphasic system. The layers were separated, and the aqueous layer was extracted with an additional ethyl acetate. The combined organic phase was washed with brine, dried (MgSO4), filtered, and concentrated. The resulting material was recrystallized from ethyl acetate/hexanes to provide two crops of J.7 (S)-tert-butyl 2-(5-(4-bromophenyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate, 5.85 g. The mother liquor was concentrated in vacuo and submitted to a flash chromatography (silica gel; 30% ethyl acetate/hexanes) to provide an additional 2.23 g. 1H NMR (DMSO-d6, δ=2.5 ppm, 400 MHz): δ 12.17/11.92/11.86 (m, 1H), 7.72-7.46/7.28 (m, 5H), 4.86-4.70 (m, 1H), 3.52 (app br s, 1H), 3.36 (m, 1H), 2.30-1.75 (m, 4H), 1.40/1.15 (app br s, 9H). LC (Cond.-J1): RT=1.71 min; LC/MS: Anal. Calcd. For [M+H]+ C18H23BrN3O2: 392.10; found 391.96. HRMS: Anal. Calcd. For [M+H]+ C18H23BrN3O2: 392.0974; found 392.0959.

reactant | (S)-tert-butyl 2-(2-(4-bromophenyl)-2-oxoethylcarbamoyl)-pyrrolidine-1-carboxylate | 31.12 mmol, 12.8 g | BrC1=CC=C(C=C1)C(CNC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C18H23BrN2O4
reactant | ammonium acetate | 155.7 mmol, 12.0 g | C(C)(=O)[O-].[NH4+]
product | (S)-tert-butyl 2-(5-(4-bromophenyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate | BrC1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C18H22BrN3O2
